US07319152B2
5-[4-(dimethylamino)phenyl]-3,3-dimethylindan-1-one
The title compound was prepared from trifluoro-methanesulfonic acid 3,3-dimethyl-1-oxo-indan-5-yl ester and 4-(dimethylamino)phenyl boronic acid according to the procedure described in example 21. MS m/z 280; HRMS: calcd for C19H21NO+H+, 280.16959; found (ESI, [M+H]+), 280.1691.

reactant | trifluoro-methanesulfonic acid 3,3-dimethyl-1-oxo-indan-5-yl ester | CC1(CC(C2=CC=C(C=C12)OS(=O)(=O)C(F)(F)F)=O)C | C12H11F3O4S
reactant | 4-(dimethylamino)phenyl boronic acid | CN(C1=CC=C(C=C1)B(O)O)C | C8H12BNO2
product | 5-[4-(dimethylamino)phenyl]-3,3-dimethylindan-1-one | CN(C1=CC=C(C=C1)C=1C=C2C(CC(C2=CC1)=O)(C)C)C | C19H21NO
